US08648066B2
N-[6-(4-{2-[(dimethylamino)methyl]-7-(methyloxy)quinazolin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)[1,3]thiazolo[5,4-b]pyridin-2-yl]acetamide.
Synthesized according to the method of example 5 using N-(6-bromothiazolo[5,4-b]pyridin-2-yl)acetamide (J. Heterocyclic Chemistry 2003, 40, 261) and {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, d6-DMSO) δ 12.60 (s, 1H), 8.86 (d, 1H), 8.45 (d, 1H), 8.23-8.07 (m, 2H), 7.70 (dd, 1H), 7.27-7.17 (m, 2H), 7.02 (d, 1H), 5.43 (s, 2H), 4.65-4.57 (m, 2H), 4.46 (s, 2H), 4.43-4.37 (m, 2H), 3.94 (s, 3H), 2.73 (s, 6H), 2.25 (s, 3H); MS (EI) for C29H29N7O3S: 556 (MH+).

reactant | N-(6-bromothiazolo[5,4-b]pyridin-2-yl)acetamide | BrC=1C=C2C(=NC1)SC(=N2)NC(C)=O | C8H6BrN3OS
reactant | {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid | COC1=CC=C2C(=NC=NC2=C1)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C18H18BN3O4
product | N-[6-(4-{2-[(dimethylamino)methyl]-7-(methyloxy)quinazolin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)[1,3]thiazolo[5,4-b]pyridin-2-yl]acetamide | CN(C)CC1=NC2=CC(=CC=C2C(=N1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)SC(=N1)NC(C)=O)OC | C29H29N7O3S
